US05932595
To a solution of 4-[4-(4-chlorophenoxy)phenylthiomethyl]tetrahydropyran-4-carboxylic acid (580 mg, 1.53 mmol) and N,N-dimethylformamide catalyst (22 μL) in methylene chloride (15 mL) at 0° C. was added oxalyl chloride (0.33 mL, 3.83 mmol) dropwise over 10 minutes. The mixture was warmed to room temperature over 1 hour, the partial slurry stirred an additional 12 hours, and concentrated in vacuo until the theoretical mass of the acid chloride was obtained. The residue was suspended intetrahydrofuran (7.5 mL), and methanol (0.19 mL, 4.59 mmol), followed by triethylamine (0.64 mL, 4.59 mmol) was added. The mixture was heated to reflux for 14 hours, concentrated, and the resulting residue partitioned between methylene chloride (150 mL) and 1M aqueous hydrochloric acid (50 mL). The aqueous layer was back extracted with additional portions of methylene chloride (2×30 mL), the combined extracts dried over magnesium sulfate, and concentrated to afford crude 4-[4-(4-chlorophenoxy)phenylthiomethyl]-tetrahydropyran-4-carboxylic acid methyl ester, which was taken directly into the next reaction without further purification. 1HNMR (CDCl3) δ 1.62. (m, 2H), 2.15 (dm, J=13.6 Hz, 2H), 3.13 (s, 2H), 3.47 (td, J=11.9, 2.4 Hz, 2H), 3.59 (s, 3H), 3.81 (dt, J=12.0, 4.1 Hz, 2H), 6.92 (d, J=8.9 Hz, 2H), 7.29 (d, J=8.8 Hz, 2H), 7.36 (d, J=8.8 Hz, 2H).

reactant | 4-[4-(4-chlorophenoxy)phenylthiomethyl]tetrahydropyran-4-carboxylic acid | 1.53 mmol, 580 mg | ClC1=CC=C(OC2=CC=C(C=C2)SCC2(CCOCC2)C(=O)O)C=C1 | C19H19ClO4S
reactant | oxalyl chloride | 3.83 mmol, 0.33 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methanol | 4.59 mmol, 0.19 mL | CO | CH4O
reactant | triethylamine | 4.59 mmol, 0.64 mL | C(C)N(CC)CC | C6H15N
catalyst | N,N-dimethylformamide | 22 μL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-(4-chlorophenoxy)phenylthiomethyl]-tetrahydropyran-4-carboxylic acid methyl ester | COC(=O)C1(CCOCC1)CSC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C20H21ClO4S
